US07759387B2
N-(5-Acetyl-2-hydroxy-phenyl)-acetamide
A solution of 1-(4-hydroxy-3-nitro-phenyl)-ethanone (10 g) in methanol, DMF (50 ml) and acetic anhydride (10 ml) was hydrogenated using 10% Pd—C (0.45 g) for 2 h at 30 psi. The catalyst was filtered off. The filtrate was concentrated (5 ml) and treated with EtOAc (100 ml) to obtain the title compound, which was filtered, washed with EtOAc (10 ml) and dried. Yield, 9.1 g (85%); mp, >215° C.; MS (EI): 193 (M+), 151, 136, 108.

reactant | 1-(4-hydroxy-3-nitro-phenyl)-ethanone | 10 g | OC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H7NO4
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | CO | CH4O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | Pd—C | 0.45 g | [Pd] | Pd
product | N-(5-Acetyl-2-hydroxy-phenyl)-acetamide | C(C)(=O)C=1C=CC(=C(C1)NC(C)=O)O | C10H11NO3
